US08530486B2
2-phthalimidoethanesulfonamide
2-Phthalimidoethanesulfonyl chloride (2.0 g) was added portion wise to a solution of 0.5 M of ammonia in dioxane (15 ml) and the solution obtained this way was stirred at room temperature. After 48 hours the reaction mixture was poured in water (50 ml) causing the title compound to precipitate. The product was collected by filtration. Yield: 1.52 g (83%) of a solid. 1H-NMR (DMSO-δ6) δ (ppm) 7.92-713 (m, 4H), 7.06 (s, 2H), 6.88-3.93 (m, 2H), 3.37-3.30 (m, 2H).

reactant | 2-Phthalimidoethanesulfonyl chloride | 2.0 g | C1(C=2C(C(N1CCS(=O)(=O)Cl)=O)=CC=CC2)=O | C10H8ClNO4S
reactant | ammonia | 0.5 M | N | H3N
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2-phthalimidoethanesulfonamide | C1(C=2C(C(N1CCS(=O)(=O)N)=O)=CC=CC2)=O | C10H10N2O4S
